US04000313
The material given in Example 1 was prepared in accordance with the following. 20.0 g. of N,N-dibenzyl-2-chloroethylamine hydrochloride and 27.6 g of potassium carbonate were mixed in 250 ml of acetonitrile. The mixture was refluxed for 15 min. and 13.8 g of 4-benzyloxyphenol were added, whereupon the mixture was refluxed for 5 hours while stirred. After filtration and evaporation the residue was recrystallized from petroleum ether. 18.4 g of 1-(N,N-dibenzylamino)-2-(4-benzyloxyphenoxy)-ethane was obtained. The structure was determined using NMR.

reactant | N,N-dibenzyl-2-chloroethylamine hydrochloride | Cl.C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CCCl
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-benzyloxyphenol | 13.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-(N,N-dibenzylamino)-2-(4-benzyloxyphenoxy)-ethane | 18.4 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CCOC1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H29NO2
